US05066409
Preparation of 3-(3-trifluoromethylphenoxy) bromobenzene
The reaction is performed in a 1 L 3-necked flask equipped with a mechanical stirrer, a Dean-Stark trap topped with a condenser and a nitrogen bubbler, and a stopper. The flask is flushed with nitrogen and charged firstly with potassium hydroxide (22.4 g, 0.4 mol), α,α,α-trifluoro-m-cresol (64.8 g, 0.4 mol), and toluene (500 mL). The mixture is stirred and heated at reflux for 2 h, during which time water collected in the trap (ca. 6mL). 1,3-Dibromobenzene (50 mL, 0.42 mol) and cuprous chloride (39.6 g, 0.4 mol) are added to the reaction mixture, and heating at reflux is continued for another 18 h. Then it is analyzed by capillary GC, which shows ca.45% of the title product along with ca.12.5% of the product resulting from dialkylation, with the rest being starting materials. The reaction mixture is filtered with the aid of ether (200 mL), and washed successively with 2×100 mL portions of 5% HCl (to remove any residual copper impurities), water, and brine. It is dried with (MgSO4) and concentrated on the rotary evaporator to a red oily residue. Fractional distillation afforded 47 g (38%) of the title compound, distilling at 113-117° C. @ 1 mm. Also, 112 g (10.5%) of the dialkylation product is obtained, distilling at 160-165° C. @ 1 mm. Other fractions from the distillation show mixtures containing the desired product, but no further effort is made to obtain the rest of it.

reactant | potassium hydroxide | 0.4 mol, 22.4 g | [OH-].[K+]
reactant | α,α,α-trifluoro-m-cresol | 0.4 mol, 64.8 g | FC(C1=CC(=CC=C1)O)(F)F | C7H5F3O
reactant | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
reactant | 1,3-Dibromobenzene | 0.42 mol, 50 mL | BrC1=CC(=CC=C1)Br | C6H4Br2
solvent | water | O | H2O
product | 3-(3-trifluoromethylphenoxy) bromobenzene | 45% | FC(C=1C=C(OC=2C=C(C=CC2)Br)C=CC1)(F)F | C13H8BrF3O
